US08183279B2
5-[(N-Methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoic acid (5):
59 g (127.8 mmol) of methyl 5-[(N-methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoate are dissolved in 200 ml of THF and added to a solution of 100 g (4.2 mol) of lithium hydroxide in 300 ml of water and 150 ml of methanol. The mixture is stirred for 12 h at 22° C., diluted with 250 ml of diethyl ether and acidified using 1N hydrochloric acid. The organic phase is separated off and washed a further three times with 100 ml of N hydrochloric acid each time, dried over sodium sulfate and evaporated. The crude product obtained in this way (80 g) is crystallised from ethyl acetate: 33 g (57.7%) of 5-[(N-methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoic acid (white crystals); MW 447.5;

reactant | methyl 5-[(N-methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoate | 127.8 mmol, 59 g | CN(CCCC)C(=O)C=1C(=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H31NO5
reactant | lithium hydroxide | 4.2 mol, 100 g | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 5-[(N-Methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoic acid | CN(CCCC)C(=O)C=1C(=CC(=C(C(=O)O)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C27H29NO5
